US06316482B1
To a solution of 4-[(indol-4-yl)carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (93 mg) in dichloromethane (6.0 ml) was added N,N-dimethylmethylene-ammonium chloride (41.7 mg) at 0° C. and the mixture was stirred at ambient temperature for 1 hour. The resulting mixture was diluted with water and the aqueous solution was extracted with dichloromethane. Drying, filtering and removal of solvents afforded 4-[(3-dimethylaminomethylindol-4-yl)carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (90 mg) as a colorless syrup.

reactant | 4-[(indol-4-yl)carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 93 mg | N1C=CC2=C(C=CC=C12)C(=O)NC1=C(C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=C1)OC | C36H43N5O5
reactant | N,N-dimethylmethylene-ammonium chloride | 41.7 mg | [Cl-].CC=[N+]=CC
reactant | dichloromethane | 6.0 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 4-[(3-dimethylaminomethylindol-4-yl)carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 90 mg | CN(C)CC1=CNC2=CC=CC(=C12)C(=O)NC1=C(C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=C1)OC | C39H50N6O5
